US05306728
Production of (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[2-hydroxy-3-(3-thienylmethoxy) propyl]benzylamine
62 mg of 3(3-chlromethylphenyl)-1-(3-thienylmethoxy)-2-propanol [synthesized by the epoxidation reaction of (E)-3-[3-(3-chloromethylphenyl)-2-propenyloxymethyl]thiophene with m-chloroperbenzoic acid in benzene, followed by the reduction with lithium aluminun hydride in ethyl ether] was dissolved in 1 ml of dimethylformamide, and 47 mg of (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride, 49 mg of potassium carbonate and 3 mg of potassium iodide were added. The mixture was stirred overnight at room temperature, and then ethyl ether and water were added. The organic layer separated was worked up in a customary manner, and the product was purified by medium-pressure liquid chromatography [silica gel column, hexane/ ethyl acetate=5/1→4/1] to give 61 mg of the captioned compound as a colorless oil.

reactant | (E)-3-[3-(3-chloromethylphenyl)-2-propenyloxymethyl]thiophene | ClCC=1C=C(C=CC1)/C=C/COCC1=CSC=C1 | C15H15ClOS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | lithium | [Li] | Li
reactant | hydride | [H-]
reactant | (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride | 47 mg | Cl.C(C)NC\C=C\C#CC(C)(C)C
reactant | potassium carbonate | 49 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3 mg | [I-].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[2-hydroxy-3-(3-thienylmethoxy) propyl]benzylamine | 61 mg | C(C)N(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)CC(COCC1=CSC=C1)O | C26H35NO2S
